* Z:\home\chandran\Dropbox\semester_7\projects\ups_switch\simulations\12V_npn_only_bipolar.asc
V1 N001 0 100
C2 N003 0 10µ
R3 N002 N001 100R
D1 0 N002 EDZV12B
R1 N003 0 1R
Q1 N001 N002 N003 0 2N5550
.model D D
.lib C:\users\chandran\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\chandran\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 1000
.backanno
.end
